US08471005B2
7-[3-(1,1-dioxo-1,2-thiazolidin-2-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-2-ol (47 mg, 0.14 mmol) and N-Phenylbis(trifluoromethanesulphonimide) (55.9 mg, 0.156 mmol) were treated with N,N-Diisopropylethylamine (0.100 mL, 0.575 mmol) and N,N-Dimethylformamide (3.00 mL, 38.7 mmol) for 30 min, then 6-Amino-3,3-dimethyl-1,3-dihydro-indol-2-one (31.3 mg, 0.178 mmol) was added and the mixture was stirred at 65° C. overnight. Conc. of the reaction gave a residue, which was chromatographed (silica gel, 20-100% EtOAc:Hex) to afford 6-({7-[3-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-2-yl}amino)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (39 mg; Yield=56%) as a yellow foam. LCMS (HPLC): 1.05 min, m/z=489 (M+H); 1H-NMR (DMSO-d6): 10.28 (s, 1H), 9.50 (s, 1H), 9.01 (s, 1H), 7.96 (d, 1H, J=7.8 Hz), 7.79 (s, 1H), 7.56 (m, 2H), 7.33 (d, 1H, J=8.3 Hz), 7.16 (m, 2H), 7.08 (s, 1H), 6.97 (d, 1H, J=4.7 Hz), 3.80 (t, 2H, J=6.5 Hz), 3.52 (t, 2H, J=7.4 Hz), 2.39 (m, 2H), 1.24 (s, 6H).

reactant | 7-[3-(1,1-dioxo-1,2-thiazolidin-2-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-2-ol | 0.14 mmol, 47 mg | O=S1(N(CCC1)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O)=O | C15H14N4O3S
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.156 mmol, 55.9 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N,N-Diisopropylethylamine | 0.575 mmol, 0.100 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-Dimethylformamide | 38.7 mmol, 3.00 mL | CN(C=O)C | C3H7NO
reactant | 6-Amino-3,3-dimethyl-1,3-dihydro-indol-2-one | 0.178 mmol, 31.3 mg | NC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H12N2O
product | 6-({7-[3-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-2-yl}amino)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 39 mg, Yield=56% | O=S1(N(CCC1)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C1C(C(NC1=C2)=O)(C)C)=O | C25H24N6O3S
